### PR TITLE
[Merged by Bors] - feat(NumberField/Units): add `regOfFamily` and refactor `regulator` 

### PR DESCRIPTION
**Pull request by xroblot**
This is a refactor of `NumberField.regulator`.

We introduce `regOfFamily` which is the regulator of a family of units indexed by `Fin (Units.rank K)`. It is equal to `0` if the family is not `isMaxRank`. This is a `Prop` that says that the image of the family in the `logSpace K` is linearly independent and thus generates a full lattice. All the results about computing the `regulator` by some matrix determinant computation are now proved more generally for `regOfFamily`. 

The `regulator` of a number field is still defined as the covolume of the `unitLattice` and we prove that is is also equal to `regOfFamily` of the system of fundamental units `fundSystem K`. Together with the results about computing `regOfFamily`, we recover that way the results about computing the regulator. 

---

- [x] depends on: #22868

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Units/Regulator.lean [hunk 1]
```diff
@@ -32,28 +34,90 @@ namespace NumberField.Units
...
+
+open Matrix
+
+variable {K}
+
+/--
+A family of units is of maximal rank if it generates a subgroup of `(𝓞 K)ˣ` of finite index.
+TODO. Prove that!
+-/
+abbrev isMaxRank (u : Fin (rank K) → (𝓞 K)ˣ) : Prop :=
```
Comment (alreadydone) [inline Mathlib/NumberTheory/NumberField/Units/Regulator.lean:61]:
```suggestion
abbrev IsMaxRank (u : Fin (rank K) → (𝓞 K)ˣ) : Prop :=
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/NumberTheory/NumberField/Units/Regulator.lean [hunk 2]
```diff
@@ -32,28 +34,89 @@ namespace NumberField.Units
...
+    coe_basisOfPiSpaceOfLinearIndependent]
+
+/--
+The regulator of a family of units of `K`.
+-/
+def regOfFamily (u : Fin (rank K) → (𝓞 K)ˣ) : ℝ := by
+  classical
+  by_cases hu : IsMaxRank u
+  · exact ZLattice.covolume (span ℤ (Set.range (basisOfIsMaxRank  hu)))
+  · exact 0
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units/Regulator.lean:85]:
```suggestion
open Classical in
/--
The regulator of a family of units of `K`.
-/
def regOfFamily (u : Fin (rank K) → (𝓞 K)ˣ) : ℝ :=
  if hu : IsMaxRank u then
    ZLattice.covolume (span ℤ (Set.range (basisOfIsMaxRank  hu)))
  else 0
```

File: Mathlib/NumberTheory/NumberField/Units/Regulator.lean [hunk 3]
```diff
@@ -64,35 +127,113 @@ places. Then, the two square matrices with entries `(mult w * log w (u i))_i` wh
...
+/--
+For any infinite place `w'`, the regulator of the family `u` is equal to the absolute value of
+the determinant of the matrix with entries `(mult w * log w (u i))_i` for `w ≠ w'`.
+-/
+theorem regOfFamily_eq_det (u : Fin (rank K) → (𝓞 K)ˣ) (w' : InfinitePlace K)
+    (e : {w // w ≠ w'} ≃ Fin (rank K)) :
+    regOfFamily u =
+      |(of fun i w : {w // w ≠ w'} ↦ (mult w.val : ℝ) * Real.log (w.val (u (e i) : K))).det| := by
+  rw [regOfFamily_eq_det', abs_det_eq_abs_det u e (equivFinRank K).symm]
+  simp [logEmbedding]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Units/Regulator.lean:169]:
```suggestion
  simp [regOfFamily_eq_det', abs_det_eq_abs_det u e (equivFinRank K).symm, logEmbedding]
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
